US07179801B2
To a solution of 5-amino-1-(2-hydroxyethyl)-1H-pyrazole-4-carbonitrile (15 g) in methanol (300 ml) was added hydrochloric acid (1.8 ml) under ice-cooling. The resulting solution was stirred for 15 minutes. The mixture was treated with 10% palladium carbon (7.5 g) under a hydrogen atmosphere at room temperature for 3 hours. After the catalyst was filtered off, the filtrate was concentrated in vacuo to give 5-amino-1-(2-hydroxyethyl)-1H-pyrazole-4-carbaldehyde (13.3 g).

reactant | 5-amino-1-(2-hydroxyethyl)-1H-pyrazole-4-carbonitrile | 15 g | NC1=C(C=NN1CCO)C#N | C6H8N4O
reactant | hydrochloric acid | 1.8 ml | Cl | ClH
reactant | methanol | 300 ml | CO | CH4O
catalyst | palladium carbon | 7.5 g | [C].[Pd]
product | 5-amino-1-(2-hydroxyethyl)-1H-pyrazole-4-carbaldehyde | 13.3 g | NC1=C(C=NN1CCO)C=O | C6H9N3O2
